US08703946B2
A 2M solution of isopropylmagnesium chloride in THF (1.9 mL, 3.8 mmol) was added to a stirred suspension of 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester (0.45 g, 1.27 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.16 g, 1.65 mmol) in DCM (6.5 mL) under nitrogen at −78° C. The mixture was slowly allowed to warm to room temperature and stirred for 16 hours. The mixture was diluted with a saturated solution of NH4Cl and extracted with DCM. The organic layer was separated, dried (Na2SO4), filtered and the solvents were evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in DCM 0/100 to 10/90). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide (0.2 g, 44% yield) as a colourless oil that solidified upon standing.

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | THF | 3.8 mmol, 1.9 mL | C1CCOC1 | C4H8O
reactant | 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.27 mmol, 0.45 g | C(C)OC(=O)C=1N(N=C(C1)COC1=CC=CC=C1)S(N(C)C)(=O)=O | C15H19N3O5S
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.65 mmol, 0.16 g | Cl.CNOC
solvent | DCM | 6.5 mL | C(Cl)Cl | CH2Cl2
solvent | NH4Cl | [NH4+].[Cl-]
product | 2-dimethylsulfamoyl-5-phenoxymethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide | 0.2 g, 44% yield | CON(C(=O)C=1N(N=C(C1)COC1=CC=CC=C1)S(N(C)C)(=O)=O)C | C15H20N4O5S
